US04797391
[(5,6-Dichloro-3,9-dioxo-9a-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetonitrile (3.49 g, 10 mMole), chloroform (40 ml) and ethanol (650 mg, 11 mMole) are united and saturated with hydrogen chloride gas at 0° C. The mixture is stirred for 16 hours and then basified with 10 normal sodium hydroxide solution. The chloroform layer is separated, washed with water, dried over K2CO3, and evaporated in vacuo. The residue is dissolved in ethanol (30 ml) and water (5 ml) added. The mixture is stirred and treated with ammonium chloride (700 mg, 12 mMole). After stirring at ambient temperature for 4 hours, the mixture is filtered, the filtrate evaporated to near dryness in vacuo, and the residue treated with acetone (50 ml). The solid that separates is removed by filtration, washed with acetone, dried, and recrystallized from a mixture of ethanol and ether to give 2-[(5,6-dichloro-3,9-dioxo-9a-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]ethanimidamide hydrochloride.

reactant | [(5,6-Dichloro-3,9-dioxo-9a-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetonitrile | 10 mMole, 3.49 g | ClC1=C2C3=CC(CCC3(C(C2=CC(=C1Cl)OCC#N)=O)CCC)=O | C18H15Cl2NO3
reactant | ethanol | 11 mMole, 650 mg | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ammonium chloride | 12 mMole, 700 mg | [Cl-].[NH4+]
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[(5,6-dichloro-3,9-dioxo-9a-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]ethanimidamide hydrochloride | Cl.ClC1=C2C3=CC(CCC3(C(C2=CC(=C1Cl)OCC(N)=N)=O)CCC)=O | InChI=1S/C18H18Cl2N2O3.ClH/c1-2-4-18-5-3-9(23)6-11(18)14-10(17(18)24)7-12(15(19)16(14)20)25-8-13(21)22;/h6-7H,2-5,8H2,1H3,(H3,21,22);1H
